US06300368B1
4′-[2-(Diethylamino)ethoxy]-2,6-dimethoxybenzanilide (2.17 g) was dissolved into ethanol (20 ml) and added with 1N HCl/ethanol (12 ml) and then stirred. The reaction mixture was added with ethyl ether (100 ml) and insolubles precipitated were collected by filtration and dried under vacuum to obtain 4′-[2-(diethylamino)ethoxy]-2,6-dimethoxybenzanilide hydrochloride (2.29 g) as color-less crystal.

reactant | 4′-[2-(Diethylamino)ethoxy]-2,6-dimethoxybenzanilide | 2.17 g | C(C)N(CCOC1=CC=C(NC(C2=C(C=CC=C2OC)OC)=O)C=C1)CC | C21H28N2O4
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | HCl ethanol | 1N, 12 ml | Cl.C(C)O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4′-[2-(diethylamino)ethoxy]-2,6-dimethoxybenzanilide hydrochloride | 2.29 g | Cl.C(C)N(CCOC1=CC=C(NC(C2=C(C=CC=C2OC)OC)=O)C=C1)CC | InChI=1S/C21H28N2O4.ClH/c1-5-23(6-2)14-15-27-17-12-10-16(11-13-17)22-21(24)20-18(25-3)8-7-9-19(20)26-4;/h7-13H,5-6,14-15H2,1-4H3,(H,22,24);1H
